US06476030B1
e) 2-[3,7-bis(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yloxymethyl]-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine Hydrochloride
To 2-[3,7-bis(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yloxymethyl]-5,6-dihydro-8H-[1,2,4]triazolo[1,5-a]pyrazine-7-carboxylic acid tert-butyl ester (100 mg, 0.18 mmol) in ethyl acetate (3 ml) was added a saturated solution of hydrogen chloride in: ethyl acetate (2 ml), and the resultant mixture was stirred at room temperature for 5.5 h. 2-[3,7-Bis(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yloxymethyl]-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine hydrochloride was precipitated as a pale yellow solid, and was separated by filtration, washed thoroughly with ethyl acetate and dried (71 mg). Data for the title compound: 1H NMR (360 MHz, DMSO) δ 3.67 (2H, m), 4.37 (2H, t, J=5.8 Hz), 4.48 (2H, s), 5.39 (2H, s), 7.33-7.55 (5H, m), 7.69 (1H, td, J=7.6, 1.7 Hz), 7.77 (1H, m), 7.92 (1H, td, J=7.3, 1.7 Hz), 9.44 (1H, s), 10.07 (2H, br s); MS (ES+) m/e 461 [MH]+.

reactant | 2-[3,7-bis(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yloxymethyl]-5,6-dihydro-8H-[1,2,4]triazolo[1,5-a]pyrazine-7-carboxylic acid tert-butyl ester | 0.18 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC=2N(CC1)N=C(N2)COC2=NN1C(=NN=CC1=C2C2=C(C=CC=C2)F)C2=C(C=CC=C2)F | C28H26F2N8O3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3,7-bis(2-Fluorophenyl)pyrazolo[1,5-d][1,2,4]triazin-2-yloxymethyl]-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyrazine Hydrochloride | Cl.FC1=C(C=CC=C1)C=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC2=NN1C(CNCC1)=N2 | InChI=1S/C23H18F2N8O.ClH/c24-16-7-3-1-5-14(16)21-18-11-27-29-22(15-6-2-4-8-17(15)25)33(18)31-23(21)34-13-19-28-20-12-26-9-10-32(20)30-19;/h1-8,11,26H,9-10,12-13H2;1H
